US05529766
Acryloyloxymethyl 4-Acryloyloxybutyl Carbonate
Chloromethyl 4-acryloyloxybutyl carbonate (1.183 g, 5.00 mmol) prepared as described in Preparation 9 is added to a suspension of freeze dried potassium acrylate (0.606 g, 5.50 mmol) and 18-crown-6 (0.066 g, 0.25 mmol) in dimethylformamide (50 ml) under a dry N2 atmosphere. After 5 days at 20° C. the solvent is removed under reduced pressure and the residue dissolved by adding dichloromethane (60 ml) and water (30 ml). After separating the phases the aqueous layer is extracted with dichloromethane (3×30 ml) and the combined organic phase washed with saturated aqueous sodium hydrogen carbonate (50 ml). The organic phase is dried (MgSO4) and the solvent removed under reduced pressure to give 1.24 g (91%) of the title product. 1H NMR (60 MHz, CDCl3): δ 1.82 (4 H, m, CH2 --CH2), 4.23 (4 H, m, 2× CH2 --O), 5.88 (2 H, s, O--CH2 --O), 5.7-6.8 (6 H, 2×CH=CH2).

reactant | Chloromethyl 4-acryloyloxybutyl carbonate | 5.00 mmol, 1.183 g | C(OCCl)(OCCCCOC(C=C)=O)=O | C9H13ClO5
reactant | potassium acrylate | 5.50 mmol, 0.606 g | C(C=C)(=O)[O-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 0.25 mmol, 0.066 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Acryloyloxymethyl 4-Acryloyloxybutyl Carbonate | 1.24 g, 91% | C(OCOC(C=C)=O)(OCCCCOC(C=C)=O)=O | C12H16O7
